US03950339
2-[4-(p-Chlorbenzylamino)-6-Methyl-2-Pyrimidinylthio]Acetamidoxime
A mixture of 10.6g. (0.035 mole) of [4-(p-chlorobenzylamino)-6-methyl-2-pyrimidinylthio]acetonitrile, 4.83 g. (0.07 mole) of hydroxylamine hydrochloride and 14.7 g. (0.14 mole) of sodium carbonate in 100 ml of N,N-dimethylformamide was heated on a steam bath for 3 hours. The mixture was filtered and the filtrate evaporated in a rotary-evaporator. The residue was triturated with petroleum ether containing a little ethyl acetate. The solid which crystallized was collected and recrystallized from ethyl acetate to give pure free base, m.p. 113°-116°. This free base was dissolved in absolute ethanol and acidified with an ethereal hydrochloric acid solution to give 3.5 g. of product, as the dihydrochloric salt, m.p. 230°-232° d.

reactant | [4-(p-chlorobenzylamino)-6-methyl-2-pyrimidinylthio]acetonitrile | 0.035 mole | ClC1=CC=C(CNC2=NC(=NC(=C2)C)SCC#N)C=C1 | C14H13ClN4S
reactant | hydroxylamine hydrochloride | 0.07 mole | Cl.NO
reactant | sodium carbonate | 0.14 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(p-Chlorbenzylamino)-6-Methyl-2-Pyrimidinylthio]Acetamidoxime | ClC1=CC=C(CNC2=NC(=NC(=C2)C)SCC(N)=NO)C=C1 | C14H16ClN5OS
